US08686002B2
7-Anilino-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-aminium acetate
A three-necked flask was heated under argon and then charged with sodium tert-butylate (0.178 g, 1.99 mol), (R/S)-1,1′-binaphthaline-2,2′-diylphosphate (0.092 g, 0.15 mmol) and tris(dibenzylidene acetone)dipalladium (0) (0.121 g, 0.13 mmol) under a protective atmosphere and suspended in 10 mL toluene. Aniline (0.25 mL, 2.79 mmol) and 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine (0.500 g, 1.33 mmol), suspended in 20 mL toluene, were then added one after the other to the starting reagents. The reaction mixture was heated at reflux for 3 hours. The reaction was not yet complete, so that first the mixture had to heated at room temperature for 12 hours and then for 5 hours at reflux. After the reaction was concluded, the mixture was cooled to room temperature, diluted with diethyl ether and the resulting solids were filtered out. For purification, the solids were dissolved in acetonitrile/water (1:1) and acetic acid and purified by preparative HPLC (Merck, Chromolith RP18) with the eluents acetonitrile and water (0.1M % acetic acid) with a gradient of 20% to 50% acetonitrile in 30 minutes. After freeze drying, the desired product was isolated via the lyophilizer. Yield: 50 mg (0.129 mmol, 10%).

reactant | Aniline | 2.79 mmol, 0.25 mL | NC1=CC=CC=C1 | C6H7N
reactant | 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine | 1.33 mmol, 0.500 g | BrC1=CC=C2CN(C(=NC2=C1)N)CC1=C(C=CC=C1OC)OC | C17H18BrN3O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene acetone)dipalladium (0) | 0.13 mmol, 0.121 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-Anilino-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-aminium acetate | C(C)(=O)[O-].N(C1=CC=CC=C1)C1=CC=C2CN(C(=NC2=C1)[NH3+])CC1=C(C=CC=C1OC)OC | InChI=1S/C23H24N4O2.C2H4O2/c1-28-21-9-6-10-22(29-2)19(21)15-27-14-16-11-12-18(13-20(16)26-23(27)24)25-17-7-4-3-5-8-17;1-2(3)4/h3-13,25H,14-15H2,1-2H3,(H2,24,26);1H3,(H,3,4)
